US07642264B2
N-tert-Butyl-3-[6′-methyl-4′-(3-methyl-4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonamide
A stirred mixture of trifluoro-methanesulfonic acid 6-methyl-4-(3-methyl-4-trifluoromethyl-phenyl)-pyridin-2-yl ester (Example A.64) (0.250 g, 0.626 mmol), N-tert-butyl-3-(6-tributylstannanyl-pyridin-2-yl)-benzenesulfonamide (Example F.6) (0.363 g, 0.626 mmol), tetrakis(triphenyl-phosphine)palladium (0.036 g, 5 mol %) in toluene (5 mL) was heated under reflux conditions for 18 h. Removal of the solvent in vacuum left a crude product which was purified by silica gel column chromatography with n-heptane/ethyl acetate to give the title compound after trituration with diethyl ether as a white solid (300 mg, 88%). MS (ISP) 539.8 [(M+H)+]; mp 150° C. (dec.).

reactant | trifluoro-methanesulfonic acid 6-methyl-4-(3-methyl-4-trifluoromethyl-phenyl)-pyridin-2-yl ester | 0.626 mmol, 0.250 g | CC1=CC(=CC(=N1)OS(=O)(=O)C(F)(F)F)C1=CC(=C(C=C1)C(F)(F)F)C | C15H11F6NO3S
reactant | N-tert-butyl-3-(6-tributylstannanyl-pyridin-2-yl)-benzenesulfonamide | 0.626 mmol, 0.363 g | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=NC(=CC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | N-tert-Butyl-3-[6′-methyl-4′-(3-methyl-4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=CC(=N1)C1=NC(=CC(=C1)C1=CC(=C(C=C1)C(F)(F)F)C)C | C29H28F3N3O2S
